US08492395B2
To a stirred brown solution of 5-(di-tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid methyl ester (74.18 g, 180.7 mmol) in methylene chloride (700 mL) was added trifluoroacetic acid (26.2 mL, 352.4 mmol), and the mixture was stirred at room temp overnight. Sat. sodium bicarbonate (400 mL) was added to the solution, and the mixture was stirred for 10 minutes. The organic layer was separated, dried over magnesium sulfate, and evaporated to give 5-(tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid methyl ester as a brown oil (52.5 g, 94% crude yield). The product was used in the next step without further purification.

reactant | 5-(di-tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid methyl ester | 180.7 mmol, 74.18 g | COC(C1=C(C=CC(=C1)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)[N+](=O)[O-])=O | C19H26N2O8
reactant | trifluoroacetic acid | 352.4 mmol, 26.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 400 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 700 mL | C(Cl)Cl | CH2Cl2
product | 5-(tert-butoxycarbonylamino-methyl)-2-nitro-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)CNC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C14H18N2O6
